US09061013B2
3-fluoro-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid ethyl ester
To a stirred solution of triethyl amine trihydrofluoride (4.21 g, 26.16 mmol, 4 eq.) in DCM (25 mL) was added triethyl amine (1.32 g, 13.08 mmol) in drop wise manner at −78° C. After 15 minutes was added X-TalFluoro-M (4.74 g, 19.62 mmol) followed by addition of pre-dissolved solution of 3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid ethyl ester (Preparation 3, 3.5 g, 6.54 mmol) in DCM (15 mL) at −78° C. Resulting reaction mixture was stirred at room temperature for 16 hours. After consumption of starting material, reaction mixture was quenched with saturated aqueous solution of sodium bicarbonate (50 mL) and stirred at room temperature for 0.5 hours. Aqueous layer was extracted with DCM (3×50 mL). Combined organic layers were dried over sodium sulphate, filtered and evaporated. Purification was done by column chromatography on silica gel (100-200 mesh size). Compounds were eluted using 5% ethyl acetate in hexane to afford two off-white solids (2 g-non-polar spot, and 1.2 g-polar spot). 1H NMR (400 MHz, CDCl3) (Non Polar spot) δ: 1.26 (t, J=7.12 Hz, 3H), 2.80 (d, J=8.76 Hz, 2H), 2.87 (d, J=8.72 Hz, 2H), 3.47-3.49 (m, 1H), 3.67 (d, J=17.16 Hz, 1H), 4.08 (d, J=17.16 Hz, 1H), 4.16 (q, J=7.2 Hz, 2H), 7.51 (d, J=8.12 Hz, 2H), 7.63 (s, 2H), 7.67 (d, J=8.16 Hz, 2H); LC-MS (m/z): 536.00 (M−H).

reactant | triethyl amine trihydrofluoride | 26.16 mmol, 4.21 g, 4 eq. | F.F.F.C(C)N(CC)CC
reactant | triethyl amine | 13.08 mmol, 1.32 g | C(C)N(CC)CC | C6H15N
reactant | 3-hydroxy-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid ethyl ester | 6.54 mmol, 3.5 g | C(C)OC(=O)C1CC(C1)(C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)O | C23H19Cl3F3NO4
solvent | DCM | 25 mL | C(Cl)Cl | CH2Cl2
solvent | DCM | 15 mL | C(Cl)Cl | CH2Cl2
product | 3-fluoro-3-{4-[5-(3,4,5-trichloro-phenyl)-5-trifluoromethyl-4,5-dihydro-isoxazol-3-yl]-phenyl}-cyclobutanecarboxylic acid ethyl ester | C(C)OC(=O)C1CC(C1)(C1=CC=C(C=C1)C1=NOC(C1)(C(F)(F)F)C1=CC(=C(C(=C1)Cl)Cl)Cl)F | C23H18Cl3F4NO3
